US05719104
Step B: Preparation of 2-(4-chloro-2-fluoro-5-hydroxyphenyl)-4,5,6,7-tetrahydro-5-hydroxy-1H-isoindole-1.3(2H)-dione
To a solution of 500 mg(1.61 mmol) of 2-(4-chloro-2-fluoro-5-hydroxyphenyl)-4,7-dihydro-1H-isoindole-1,3(2H)-dione in 10 mL of tetrahydrofuran (THF) was added 1.94 mL of a 1M solution of BH3 in THF at 0° C. The mixture was then stirred at the same temperature for 1 h. Then, the mixture was warmed to room temperature. A solution of 3.0 mL of 6N aqueous sodium hydroxide, 1.8 mL of water, and 2.1 mL of 30% aqueous hydrogen peroxide were added subsequently. The mixture was stirred at the same temperature for 4 h. The crude product was diluted with ethyl acetate. The organic layer was washed with water, dried (MgSO4) and concentrated under reduced pressure. The crude product was purified by flash chromatography over silica gel, eluting with a 1:2 v:v mixture of ethyl acetate and n-hexane to give 62 mg of the title product of Step B, a compound of the invention, as a yellow oil. 1H NMR (CDCl3, 300 MHz) δ 1.8 (br s, 1H), 1.95 (m, 2H), 2.8-2.4 (m, 4H), 4.4 (m, 1H), 5.85 (br s, 1H), 6.9 (s, 1H), 7.5 (s, 1H).

reactant | 2-(4-chloro-2-fluoro-5-hydroxyphenyl)-4,7-dihydro-1H-isoindole-1,3(2H)-dione | 1.61 mmol, 500 mg | ClC1=CC(=C(C=C1O)N1C(C=2CC=CCC2C1=O)=O)F | C14H9ClFNO3
reactant | sodium hydroxide | 6N, 3.0 mL | [OH-].[Na+]
reactant | water | 1.8 mL | O | H2O
reactant | hydrogen peroxide | 2.1 mL | OO | H2O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-chloro-2-fluoro-5-hydroxyphenyl)-4,5,6,7-tetrahydro-5-hydroxy-1H-isoindole-1.3(2H)-dione | 62 mg | ClC1=CC(=C(C=C1O)N1C(C=2CCC(CC2C1=O)O)=O)F | C14H11ClFNO4
